US04336243
Nitroglycerin pads (1.6×1.6 cm) were prepared following the method of Example 2 from 11 g of 10 percent nitroglycerin-lactose, labeled with C14 -nitroglycerin, 4.0 g of 10 percent (v/v) polyethylene glycol 400 in deionized water, 27.5 g of MDX 4-4210 silicone elastomer, 5.0 g of isopropyl palmitate and 2.5 of curing agent. The pads were stored in airtight containers.

reactant | nitroglycerin lactose | 11 g | C(C(CO[N+](=O)[O-])O[N+](=O)[O-])O[N+](=O)[O-].OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO
reactant | isopropyl palmitate | 5.0 g | C(CCCCCCCCCCCCCCC)(=O)OC(C)C | C19H38O2
solvent | water | O | H2O
product | Nitroglycerin | C(C(CO[N+](=O)[O-])O[N+](=O)[O-])O[N+](=O)[O-] | C3H5N3O9
